US04386091
A 50% sodium hydroxide solution (430.6 g., 5.333 mole) is added dropwise to a stirred solution of 1-(3-chlorophenyl)piperazine hydrochloride (502.0 g., 2.153 mole) and 1-bromo-3-chloropropane (339.0 g., 2.153 mole) in 435 ml. water and 535 ml. acetone while maintaining temperature of 0°-10° C. Stirring is continued for a 16 hr. period at room temperature and the upper organic phase then separated and concentrated under reduced pressure. The remaining residual oil is taken up in 500 ml. acetone, filtered and the filtrate concentrated under reduced pressure to an oily residue which is dissolved in boiling dilute hydrochloric acid (1.67 liter water plus 280 ml. concentrated HCl, 3.36 mole). The oil which initially separates from the cooled acid solution, solidifies on standing and is collected, rinsed with cold water and air dried. Crystallization of this material from water employing activated charcoal affords 438.4 g. (66%) of 1-(3-chloropropyl)-4-(3-chlorophenyl)piperazine hydrochloride, m.p. 196.5°-198.5° C. The hydrochloride salt is converted to the free base with aqueous 10% sodium hydroxide and recovered by extracting with ether (dried over magnesium sulfate). Concentration of the etheral extract affords 1-(3-chloropropyl)-4-(3-chlorophenyl)piperazine free base as an oily residue.

reactant | sodium hydroxide | 5.333 mole, 430.6 g | [OH-].[Na+]
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 2.153 mole, 502.0 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | 1-bromo-3-chloropropane | 2.153 mole, 339.0 g | BrCCCCl | C3H6BrCl
reactant | hydrochloric acid | 3.36 mole, 1.67 liter | Cl | ClH
reactant | 1-(3-chloropropyl)-4-(3-chlorophenyl)piperazine hydrochloride | Cl.ClCCCN1CCN(CC1)C1=CC(=CC=C1)Cl
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-(3-chloropropyl)-4-(3-chlorophenyl)piperazine | ClCCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C13H18Cl2N2
